US07585885B2
(2R,4R)-4-(3-Methoxy-phenoxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To an ice cold solution of (2R,4S)-4-hydroxypyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (1.15 g, 4.69 mmol) and 3-methoxyphenol (0.56 mL, 5.158 mmol) in THF (10 mL) is added triphenylphosphine (1.84 g, 7.03 mmol) followed by the dropwise addition of diisopropyl-azodicarboxylate (1.40 mL, 7.03 mmol). Warm to room temperature and stir for 18 h. Dilute the reaction with ethyl acetate and wash with 1 N HCl, saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry (magnesium sulfate) and purify (silica gel chromatography, eluting with dichloromethane/ethyl acetate mixtures) to give the title compound (0.57 g, 34%).

reactant | (2R,4S)-4-hydroxypyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 4.69 mmol, 1.15 g | COC(=O)[C@@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
reactant | 3-methoxyphenol | 5.158 mmol, 0.56 mL | COC=1C=C(C=CC1)O | C7H8O2
reactant | triphenylphosphine | 7.03 mmol, 1.84 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl-azodicarboxylate | 7.03 mmol, 1.40 mL | C(C)(C)OC(=O)N=NC(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4R)-4-(3-Methoxy-phenoxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.57 g, 34% | COC(=O)[C@@H]1N(C[C@@H](C1)OC1=CC(=CC=C1)OC)C(=O)OC(C)(C)C | C18H25NO6
